US07666868B2
C5. (E)-3-[1-(5-Bromo-thiophene-2-sulfonyl)-1H-pyrrol-3-yl]-acrylic acid
A mixture of 4.5 g (E)-3-[1-(5-bromo-thiophene-2-sulfonyl)-1H-pyrrol-3-yl]-acrylic acid tert-butyl ester with 85.0 ml dichloromethane and 13.0 ml TFA is stirred at ambient temperature for 24 h. The dichloromethane and TFA is evaporated and the residue is coevaporated with toluene for 3 times. By this method 3.8 g light pink solid is obtained.

reactant | (E)-3-[1-(5-bromo-thiophene-2-sulfonyl)-1H-pyrrol-3-yl]-acrylic acid tert-butyl ester | 4.5 g | C(C)(C)(C)OC(\C=C\C1=CN(C=C1)S(=O)(=O)C=1SC(=CC1)Br)=O | C15H16BrNO4S2
reactant | TFA | 13.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 85.0 ml | ClCCl | CH2Cl2
product | (E)-3-[1-(5-Bromo-thiophene-2-sulfonyl)-1H-pyrrol-3-yl]-acrylic acid | 3.8 g | BrC1=CC=C(S1)S(=O)(=O)N1C=C(C=C1)/C=C/C(=O)O | C11H8BrNO4S2
